US06951879B2
According to the method in example 18, Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester and Piperidine were converted to yield 3-(4-Chloro-phenyl)-6-(5-piperidin-1-yl-pent-1-ynyl)-benzo[d]isothiazole, MS: 395 (MH+).

reactant | Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C | C19H16ClNO3S2
reactant | Piperidine | N1CCCCC1 | C5H11N
product | 3-(4-Chloro-phenyl)-6-(5-piperidin-1-yl-pent-1-ynyl)-benzo[d]isothiazole | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCN2CCCCC2 | C23H23ClN2S
